US05914328
65c. 5-bromo-3-(1-BOC-2-(S)-pyrrolidinylmethoxy)pyridine
A 332 mg (1.2 mmol) sample of 1-BOC-2-(S)-azetidinemethanol, prepared as in Example 7b above, and 240 mg (1.38 mmol) of 5-bromo-3-hydroxypyridine, prepared as in Example 65b above, were reacted with triphenylphosphine and DEAD (1.2 mmol each) in 5 mL of THF according to the procedure of Example 14a, to give 355 mg of the title compound. MS (DCI/NH3) m/e 357/359 (M+H)+, 374/376 (M+NH4)+. 1H NMR (CDCl3, 300 MHz) δ: 8.28 (d, J=1.8 Hz, 1H), 8.24 (d, J=2.6 Hz, 1H), 7.44 (dd, J-1.8, 2.6 Hz, 1H), 8.24 (d, J=2.6 Hz, 1H), 7.44 (dd, J=1.8, 2.6 Hz, 1H), 4.21-4.05 (m, 2H), 4.03-3.92 (m, 1H), 3.48-3.82 (m, 2H), 2.10-1.80 (m, 4H), 1.47 (s, 9H).

reactant | 1-BOC-2-(S)-azetidinemethanol | C(=O)(OC(C)(C)C)N1[C@@H](CC1)CO | C9H17NO3
reactant | 5-bromo-3-hydroxypyridine | 1.38 mmol, 240 mg | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.2 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-(1-BOC-2-(S)-pyrrolidinylmethoxy)pyridine | 355 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21BrN2O3
